US06927214B1
5-[6,7-Dichloro-3-(1,4-dioxa-8-azaspiro[4,5]dec-8-yl)quinoxalin-2-ylmethylsulfanyl]4H-1,2,4-triazol-3-ylamine
To a solution of 2,6,7-trichloro-3-chloromethylquinoxaline (107 mg, 0.38 mmol) in DMF (5 ml) was added 3-amino-5-mercapto-1,2,4-triazole (44 mg, 0.38 mmol) followed by addition of triethylamine (0.05 ml, 0.38 mmol). After 5 hours, potassium fluoride 40% wt on alumina (143 mg, 1.1 mmol) was added, followed by 1,4 dioxa-8-aza-spiro[4,5]decane (0.05 ml, 0.42 mmol). The reaction was stirred overnight at room temperature. Purification by flash column chromatography using ethyl acetate afforded the title compound.

reactant | 2,6,7-trichloro-3-chloromethylquinoxaline | 0.38 mmol, 107 mg | ClC1=NC2=CC(=C(C=C2N=C1CCl)Cl)Cl | C9H4Cl4N2
reactant | 3-amino-5-mercapto-1,2,4-triazole | 0.38 mmol, 44 mg | NC1=NNC(=N1)S | C2H4N4S
reactant | triethylamine | 0.38 mmol, 0.05 ml | C(C)N(CC)CC | C6H15N
reactant | potassium fluoride | [F-].[K+]
reactant | 1,4 dioxa-8-aza-spiro[4,5]decane | 0.42 mmol, 0.05 ml | O1CCOC12CCNCC2 | C7H13NO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-[6,7-Dichloro-3-(1,4-dioxa-8-azaspiro[4,5]dec-8-yl)quinoxalin-2-ylmethylsulfanyl]4H-1,2,4-triazol-3-ylamine | ClC=1C=C2N=C(C(=NC2=CC1Cl)CSC=1NC(=NN1)N)N1CCC2(OCCO2)CC1 | C18H19Cl2N7O2S
